US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid was condensed with 2-chloroaniline to yield 2-[(2-chlorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
product | 2-[(2-chlorophenyl)amino]phenylacetic acid | ClC1=C(C=CC=C1)NC1=C(C=CC=C1)CC(=O)O | C14H12ClNO2
